US09284271B2
3-(2-bromoethyl)-2-(triethylsilyl)-5-(trifluoromethyl)-1H-indole was prepared according to method D Step III with 2-(2-(triethylsilyl)-5-(trifluoromethyl)-1H-indol-3-yl)ethanol (0.730 g; 2.13 mmol) in THF (6 mL); triphenyl phosphine (0.836 g; 3.19 mmol) and perbromomethane (1.06 g; 3.19 mmol) in THF (12 mL) pre-stirred for 1 hour. The crude residue was purified by flash chromatography on silica gel (eluent 5 to 40% ethyl acetate in heptane) to afford 0.449 g (52%) of 3-(2-bromoethyl)-2-(triethylsilyl)-5-(trifluoromethyl)-1H-indole as a yellow oil.

reactant | 2-(2-(triethylsilyl)-5-(trifluoromethyl)-1H-indol-3-yl)ethanol | 2.13 mmol, 0.730 g | C(C)[Si](C=1NC2=CC=C(C=C2C1CCO)C(F)(F)F)(CC)CC | C17H24F3NOSi
reactant | triphenyl phosphine | 3.19 mmol, 0.836 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | perbromomethane | 3.19 mmol, 1.06 g | BrC(Br)(Br)Br | CBr4
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | THF | 12 mL | C1CCOC1 | C4H8O
product | 3-(2-bromoethyl)-2-(triethylsilyl)-5-(trifluoromethyl)-1H-indole | 0.449 g, 52% | BrCCC1=C(NC2=CC=C(C=C12)C(F)(F)F)[Si](CC)(CC)CC | C17H23BrF3NSi
